.include onebitb.lib
*
.SUBCKT ONEBIT 1 2 3 4 5 6
* TERMINALS: A B CIN OUT COUT VCC
X1 1 2 7 6 XOR
X2 1 2 8 6 AND
X3 7 3 4 6 XOR
X4 3 7 9 6 AND
X5 8 9 5 6 OR
.ENDS ONEBIT
.MODEL SW VSWITCH (RON=1 ROFF=1MEG VON=2.51 VOFF=2.5)
.MODEL SW1 SWITCH (RON=1 ROFF=1MEG ON=2.51 OFF=2.5)
