*
.SUBCKT OR 1 2 3 4
* TERMINALS A B OUT VCC
RL 3 0 1K
S1 3 4 1 0 SW
S2 3 4 SW1 CONTROL={V(2)}
.ENDS OR
*
.SUBCKT AND 1 2 3 4
* TERMINALS A B OUT VCC
RL 3 0 1K
S1 4 5 SW CONTROL={V(1)}
S2 5 3 2 0 SW1
.ENDS AND
*
.SUBCKT XOR 1 2 3 4
* TERMINALS A B OUT VCC
RL 3 0 1K
S1 4 3 1 2 SW
S2 4 3 2 1 SW1
.ENDS XOR
